US06235355B1
2-Propyl-1,3-propanediol 2.2 g (18.5 mol) and 4-(3-fluoro-4-trifluoromethoxyphenyl) cyclohexanecarboaldehyde 3.6 g (13.3 mmol) were dissolved in toluene 50 ml, and PTS 0.5 g was added, and the mixture was refluxed with heating for 3 hours while removing water formed with Dien-Stark. The reactant was washed with a saturated sodium bicarbonate aqueous solution, and then with saturated sodium chloride aqueous solution, and dried over anhydrous magnesium sulfate, and the solvent was distilled off. The residue was recrystallized twice from heptane to obtain 5-propyl-2-(4-(3-fluoro-4-trifluoromethoxy phenyl)cyclohexyl-1,3-dioxane 1.22 g (3.12 mmol). The yield was 23.5% from 4-(3-fluoro-4-trifluoromethoxyphenyl)cyclohexanecarboaldehyde.

reactant | 2-Propyl-1,3-propanediol | 18.5 mol, 2.2 g | C(CC)C(CO)CO | C6H14O2
reactant | 4-(3-fluoro-4-trifluoromethoxyphenyl) cyclohexanecarboaldehyde | 13.3 mmol, 3.6 g | FC=1C=C(C=CC1OC(F)(F)F)C1CCC(CC1)C=O | C14H14F4O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(3-fluoro-4-trifluoromethoxy phenyl)cyclohexyl-1,3-dioxane | 3.12 mmol, 1.22 g, yield was 23.5% | FC=1C=C(C=CC1OC(F)(F)F)C1CCC(CC1)C1OCCCO1 | C17H20F4O3
